US05607937
Boc-3-cyano-(L)-phenylalanine-4-methylsulfonylpiperazide
4.92 g (24.5 mmol) of 1-methylsulfonylpiperazine hydrochloride and 2.7 ml (24.5 mmol) of NMM was dissolved in 50 ml of DMF. After addition of 4 g (29.6 mmol) of HOBt and a solution of 5.93 g (20.4 mmol) of Boc-3-cyano-(L)-phenylalanine in 200 ml of THF, the mixture was cooled to O° C. 5.1 g (24.7 mmol) of DCC were added and the mixture was stirred for 48 hours at room temperature. Afterwards, the precipitated dicyclohexyl urea was filtered off, the THF moiety of the solution evaporated under reduced pressure, filtered and the filtrate poured into a mixture of 100 ml of 5% sodium bicarbonate solution and 200 ml of ice water. The formed precipitate was filtered off, washed with water, dissolved in methanol and the solvent was evaporated under reduced pressure. To remove the still present water, a co-distillation with toluene/isopropanol was performed several times. The only slightly impure product was processed in this form. Yield: 7.9 g (89%)

reactant | 1-methylsulfonylpiperazine hydrochloride | 24.5 mmol, 4.92 g | Cl.CS(=O)(=O)N1CCNCC1
reactant | NMM | 24.5 mmol, 2.7 ml | CN1CCOCC1 | C5H11NO
reactant | HOBt | 29.6 mmol, 4 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Boc-3-cyano-(L)-phenylalanine | 20.4 mmol, 5.93 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC(=CC=C1)C#N)C(=O)O | C15H18N2O4
reactant | DCC | 24.7 mmol, 5.1 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | Boc-3-cyano-(L)-phenylalanine-4-methylsulfonylpiperazide | CS(=O)(=O)N1CCN(CC1)C([C@@H](NC(=O)OC(C)(C)C)CC1=CC(=CC=C1)C#N)=O | C20H28N4O5S
